US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(3,4-difluorophenyl)imidazolidin-2-one
The compound was synthesized as hydrochloride salt starting from 5-aminobenzimidazole (0.585 g, 4.4 mmol), di(1H-imidazol-1-yl)methanone (0.713 g, 4.4 mmol), TEA (1.84 mL, 13.2 mmol), aminomethyl-(3,4-difluorophenyl)ketone hydrochloride (0.911 g, 4.4 mmol), TEA (1.23 mL, 8.8 mmol), PdC (10%, 0.02 g) as described in method 1.

reactant | 5-aminobenzimidazole | 4.4 mmol, 0.585 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | di(1H-imidazol-1-yl)methanone | 4.4 mmol, 0.713 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | aminomethyl-(3,4-difluorophenyl)ketone hydrochloride | 4.4 mmol, 0.911 g | Cl.NCC(=O)C1=CC(=C(C=C1)F)F
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(3,4-difluorophenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC(=C(C=C2)F)F)=O | C16H12F2N4O
